Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Amoxicillin / Vicodin
 
Attending: ___.
 
Chief Complaint:
elevated BPs
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o G2P1001 at ___ who presents to triage from home after 
her BP at home was 161/117. Pt has been checking her BP at home 
for weeks due to gHTN. States she just got a new BP cuff and 
thinks its giving her falsely elevated readings. Pt has been 
taking Procardia bid and yesterday increased her dose from 60/30 
to 60/60. Pt reports feeling well. Denies HA, visual changes, 
abd pain. No LOF, VB. Reports active FM.

 
Past Medical History:
PNC: 
___ ___ 
Labs: not available
Genetics: nl ERA, nl 
Screening: nl GLT
ISSUES:
*) gHTN
- denies cHTN
- ___ urine negative
- ___ labs nl
- Procardia 60/30 -> increased to ___ yesterday

OBHx:
- G1: SVD, term 5 lb 5 oz, had gHTN (on meds antepartum and
postpartum, no mag), c/b retained placenta requiring D&C
 
GynHx:
- denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: hypothyroidism
 
PSH: D&C

 
Social History:
denies T/E/D

 
Physical Exam:
Admission exam
GEN: appears well, NAD
VS: HR 100, RR 20, T 98.0
BPs: 138/98, 150/99, 152/110, 148/98, 131/79, 127/76, 143/95
ABD: soft, gravid, NT; no RUQ tenderness
EXT: no calf tenderness
FHT: 120s, reactive
TOCO: no ctxs
U/S: cephalic, BPP ___, DVP 7.1

 
Pertinent Results:
___ 02:46PM   CREAT-0.5
___ 02:46PM   estGFR-Using this
___ 02:46PM   ALT(SGPT)-18
___ 02:46PM   URIC ACID-4.2
___ 02:46PM   WBC-13.1* RBC-4.75 HGB-14.2 HCT-39.3 MCV-83 
MCH-29.9 MCHC-36.1* RDW-13.3
___ 02:46PM   PLT COUNT-283
___ 01:30PM URINE  HOURS-RANDOM CREAT-11 TOT PROT-<___ G2 now P2 who was admitted to ___ on ___ with 
gHTN and rule out pre-eclampsia. She had had elevated BPs at 
home. Sh was continued on nifedipine 60CR BID and her 24 hour 
urine was 240mg. On ___ she had DBP 105 which improved with 
next BP. On ___ she had elevated BP, her cervix was closed and 
decision was made to bring her to L&D for IOL given the elevated 
BPs. She made no cervical changes with 3 cytotecs and came back 
to antepartum for rest. She then went back to L&D on ___. She 
then went on to have a vaginal deliver but left against medical 
advice since she still had elevated BPs which warranted further 
monitoring and treatment. discharged against medical advice. She 
was scheduled for BP check the next day.

 
Medications on Admission:
PNV, levothyroxine, Procardia 60am/60pm, Ativan prn

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
gestational hypertension
svd

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You are being discharged against medical advice. Your blood 
pressure was elevated when you were being discharged and we 
recommended staying for further monitoring and treatment. You 
have declined medical care. Please come for a BP check tomorrow 
with Dr. ___.

no swimming/baths/intercourse for 6 wks. no driving for 1 week. 
call with severe headache, eelvated bp >160/95 or less than 
100/60, visual changes, chest pain, SOB.

 
Followup Instructions:
___